US08541411B2
Preparation of 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-4-(1H-pyrazol-5-yl)-1H-benzimidazole
A mixture of 4-bromo-1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole (prepared following the same procedure as for Example 21, 250 mg, 0.55 mmol), 1H-pyrazol-5-ylboronic acid (64 mg, 0.57 mmol), Pd(dba)2 (32 mg, 0.055 mmol), Cs2CO3 (358 mg, 1.1 mmol) and P(t-Bu)3 (10 wt % in hexane, 110 mg, 0.055 mmol) in dioxane (16 mL) and water (8 mL), was stirred at at 80° C. for 3 h under a nitrogen atmosphere. The reaction mixture was cooled and then concentrated. The resulting residue was purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the crude product (122 mg). The crude product was purified by Prep-HPLC to the pure product (72 mg, 30%), as a white solid. 1H NMR showed this compound is in a form of tautomeric mixture (major tautomer/minor tautomer=5/3) 1H NMR of the major tautomer (300 MHz, DMSO-d6) δ ppm 2.46 (s, 3H,), 3.12-3.14 (m, 4H), 3.73-3.76 (m, 4H), 5.57 (s, 2H), 6.36 (d, 1H, J=7.8 Hz), 6.97 (s, 1H), 7.20-7.28 (m, 2H), 7.37 (s, 1H), 7.53-7.61 (m, 2H), 13.17 (s, 1H); LC-MS: m/e=442 [M+1]+

reactant | 4-bromo-1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole | BrC1=CC(=CC=2N(C(=NC21)C)CC2=C(C(=CC=C2)Cl)Cl)N2CCOCC2 | C19H18BrCl2N3O
reactant | 1H-pyrazol-5-ylboronic acid | 0.57 mmol, 64 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | Cs2CO3 | 1.1 mmol, 358 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | P(t-Bu)3 | 0.055 mmol, 110 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
catalyst | Pd(dba)2 | 0.055 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 1-[(2,3-dichlorophenyl)methyl]-2-methyl-6-(4-morpholinyl)-4-(1H-pyrazol-5-yl)-1H-benzimidazole | 122 mg | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C2=CC=NN2)N2CCOCC2)C | C22H21Cl2N5O
